US05304565
2-Butyl-6-hydroxy-3-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone
A mixture of 2-butyl-3-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-8-valeryloxy-4(3H)-quinazolinone (0.3 g) in methanol (5 ml) and 1N sodium hydroxide (2 ml) was stirred at room temperature for 1 hour. After addition of 1N hydrochloric acid, the reaction solution was extracted with ethyl acetate and the organic layer was washed with water, dried and evaporated to dryness. The residue was purified by column chromatography on silica gel to give a crystalline product. Recrystallization from ethyl acetate-ether gave colorless crystals (0.2 g, 80%), mp 212°-214° C.

reactant | 2-butyl-3-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-8-valeryloxy-4(3H)-quinazolinone | 0.3 g | C(CCC)C1=NC2=C(C=CC=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)OC(CCCC)=O | C31H32N6O3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
solvent | sodium hydroxide | 1N, 2 ml | [OH-].[Na+]
product | 2-Butyl-6-hydroxy-3-[[2'-(1H-tetrazol-5-yl)biphenyl-4-yl]methyl]-4(3H)-quinazolinone | 0.2 g, 80% | C(CCC)C1=NC2=CC=C(C=C2C(N1CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)=O)O | C26H24N6O2
